US04859231
(a) N-(2,6-Dichlorophenyl)-5-(1-ethoxyethylidenamino)-1H-1,2,4-triazole-3-sulphonamide
6.16 g (20.0 mmol) 5-amino-N-(2,6-dichlorophenyl)-1H-1,2,4-triazole-3-sulphonamide was heated in 50 ml acetonitrile with 4.2 ml (23.0 mmol) triethyl orthoacetate and 3 drops glacial acetic acid for 5 hours under reflux. The mixture was cooled and evaporated to dryness. The residue was recrystallized from ethyl acetate.

reactant | 5-amino-N-(2,6-dichlorophenyl)-1H-1,2,4-triazole-3-sulphonamide | 20.0 mmol, 6.16 g | NC1=NC(=NN1)S(=O)(=O)NC1=C(C=CC=C1Cl)Cl | C8H7Cl2N5O2S
reactant | triethyl orthoacetate | 23.0 mmol, 4.2 ml | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | N-(2,6-Dichlorophenyl)-5-(1-ethoxyethylidenamino)-1H-1,2,4-triazole-3-sulphonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NNC(=N1)N=C(C)OCC | C12H13Cl2N5O3S
